2143-02-05 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2143-2-4**] 08:00 AM
   Arctic Sun cooling protocol completed at 3am, re-warming started.
   Started Vanc / Levo / Flagyl for broad antibiotic coverage of likely
   aspiration pneumonia
   Started Lidocaine infusion for episodes of NSVT
   Continued Dopamine for hypotension
   Heparin gtt continued for IABP
   Insulin gtt started for hyperglycemia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-2-4**] 12:58 PM
   Levofloxacin - [**2143-2-4**] 05:00 PM
   Metronidazole - [**2143-2-5**] 06:13 AM
   Infusions:
   Lidocaine - 1 mg/min
   Heparin Sodium - 950 units/hour
   Insulin - Regular - 3 units/hour
   Dopamine - 6 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Meperidine (Demerol) - [**2143-2-4**] 08:50 AM
   Cisatracurium - [**2143-2-4**] 01:16 PM
   Pantoprazole (Protonix) - [**2143-2-4**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-2-5**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.4
C (95.7
   HR: 71 (58 - 104) bpm
   BP: 96/42(68) {77/42(60) - 125/76(88)} mmHg
   RR: 26 (7 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 16 (11 - 30)mmHg
   PAP: (36 mmHg) / (23 mmHg)
   CO/CI (Fick): (5.6 L/min) / (2.5 L/min/m2)
   SvO2: 76%
   Mixed Venous O2% Sat: 63 - 76
   Total In:
                                                                  2,106 mL
                                                                    668 mL
   PO:
   TF:
   IVF:
                                                                  2,106 mL
                                                                    668 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    365 mL
   Urine:
                                                                  1,810 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    296 mL
                                                                    303 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/28/118/17/-5
   Ve: 14.2 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: pupils nonreactive
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   184 K/uL
   14.9 g/dL
   142 mg/dL
   1.4 mg/dL
   17 mEq/L
   3.9 mEq/L
   28 mg/dL
   111 mEq/L
   137 mEq/L
   45
   18.0 K/uL
        [image002.jpg]
                            [**2143-2-4**]  05:00 PM
                            [**2143-2-4**]  05:11 PM
                            [**2143-2-4**]  08:49 PM
                            [**2143-2-4**]  08:57 PM
                            [**2143-2-4**]  10:52 PM
                            [**2143-2-4**]  11:08 PM
                            [**2143-2-4**]  11:19 PM
                            [**2143-2-5**]  03:01 AM
                            [**2143-2-5**]  03:21 AM
                            [**2143-2-5**]  03:29 AM
   WBC
   20.4
   18.0
   Hct
   43.9
   49
   46
   40.6
   45
   Plt
   214
   184
   Cr
   1.6
   1.5
   1.4
   TropT
   3.36
   TCO2
   18
   17
   18
   18
   Glucose
   230
   160
   142
   Other labs: PT / PTT / INR:14.8/137.8/1.3, CK / CKMB /
   Troponin-T:2742/375/3.36, Differential-Neuts:87.7 %, Lymph:7.1 %,
   Mono:4.9 %, Eos:0.1 %, Lactic Acid:2.2 mmol/L, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 PNEUMONIA, ASPIRATION
 CARDIAC ARREST
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   Assessment and Plan
   64M w/ pmh CAD p/w chest pain, found to have anterior STEMI,
   complicated by V-fib arrest s/p defibrillation, now s/p cypher stent to
   prox LAD, hypotensive on dopamine and balloon pump.
   .
   # CORONARIES:  History of CAD s/p stent to LCX in [**2132**], and [**2134**]. Now
   s/p anterior STEMI with cypher DES to prox LAD.
   -continue heparin, integrillin
   -continue aspirin, plavix
   -start BB once BP stable
   -start ACE-I once BP stable
   -atorvastatin 80mg
   -insulin drip to keep glucose under 180
   -trend cardiac enzymes
   .
   # PUMP:  Cardiogenic shock, with cardiac indext 2.3 on dopamine and
   balloon pump in setting of anterior STEMI. On dopamine and has balloon
   pump in place. MvO2 63%, will titrate up dopamine. 2nd line pressors
   will be levophed and dobutamine
   -continue heparin while on IABP
   -check platelets TID while on IABP
   -dopamine goal MAP > 60
   -echo
   -arctic sun
   .
   # RHYTHM: STEMI complicated by ventricular fibrillation, s/p
   defibrillation, amiodarone, and lidocaine drip. received cypher stent
   to prox LAD. Lidocaine gtt titrated off. currently in sinus rhythm.
   -may restart lidocaine or amiodarone if Vfib returns.
   .
   # Respiratory status:Intubated at OSH during Vfib arrest. Initially
   acidotic to 7.01 in setting of CO2 72. Also hypoxic to 79. Received
   lasix 80mg IV in cath lab with improved oxygenation.  pH correcting
   with improved ventilation. CXR with near whiteout of left lung. Hypoxia
   due to aspiration, cardiogenic pulmonary edema, possible ARDS.
   - intubated, will try to maximize PEEP as BP tolerates.
   -follow PA pressures, diurese for elevated wedge.
   .
   # Acidosis-pH at presentation to [**Hospital1 19**] was 7.01, due to hypercarbia,
   gap metabolic acidoses likely from lactate acidosis from cardiogenic
   shock, and non-anion gap acidosis from renal failure, RTA.
   -check urine lytes, urine anion gap
   FEN:
   ACCESS: PIV's , right groin line.
   PROPHYLAXIS:
   -DVT ppx with heparin, integrillin
   -Bowel regimen  colace, senna
   CODE:  full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2143-2-4**] 06:00 AM
   PA Catheter - [**2143-2-4**] 06:00 AM
   18 Gauge - [**2143-2-4**] 06:00 AM
   Arterial Line - [**2143-2-4**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2143-02-06 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - balloon pump was d/c'ed; heparin was restarted 6 hours after balloon
   pump was pulled for apical hypokinesis; warfarin was started
   - vancomycin was d/c'ed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-2-4**] 12:58 PM
   Levofloxacin - [**2143-2-4**] 05:00 PM
   Metronidazole - [**2143-2-6**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Heparin Sodium - 1,150 units/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-2-5**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-2-6**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 85 (75 - 102) bpm
   BP: 125/59(78) {88/47(62) - 147/85(99)} mmHg
   RR: 22 (21 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 45 (6 - 45)mmHg
   PAP: (36 mmHg) / (18 mmHg)
   CO/CI (Fick): (6.9 L/min) / (3.1 L/min/m2)
   Mixed Venous O2% Sat: 72 - 76
   Total In:
                                                                  2,018 mL
                                                                    526 mL
   PO:
   TF:
   IVF:
                                                                  1,868 mL
                                                                    526 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    310 mL
   Urine:
                                                                  1,125 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    893 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 38
   PIP: 26 cmH2O
   SpO2: 98%
   ABG: 7.40/36/95.[**Numeric Identifier 218**]/20/-1
   Ve: 11 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   111 K/uL
   12.2 g/dL
   115 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.0 mEq/L
   30 mg/dL
   111 mEq/L
   138 mEq/L
   37
   11.0 K/uL
        [image002.jpg]
                            [**2143-2-5**]  03:29 AM
                            [**2143-2-5**]  07:48 AM
                            [**2143-2-5**]  03:33 PM
                            [**2143-2-5**]  03:35 PM
                            [**2143-2-5**]  10:48 PM
                            [**2143-2-5**]  10:50 PM
                            [**2143-2-5**]  11:02 PM
                            [**2143-2-6**]  04:05 AM
                            [**2143-2-6**]  04:24 AM
                            [**2143-2-6**]  04:29 AM
   WBC
   11.0
   Hct
   45
   40
   40
   32.9
   37
   Plt
   111
   Cr
   1.4
   1.3
   TCO2
   19
   18
   19
   23
   Glucose
   112
   115
   Other labs: PT / PTT / INR:15.4/58.0/1.4, CK / CKMB /
   Troponin-T:2742/375/3.36, Differential-Neuts:87.7 %, Lymph:7.1 %,
   Mono:4.9 %, Eos:0.1 %, Lactic Acid:2.2 mmol/L, Ca++:7.9 mg/dL, Mg++:1.9
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   64M w/ pmh CAD p/w chest pain, found to have anterior STEMI,
   complicated by V-fib arrest s/p defibrillation, now s/p cypher stent to
   prox LAD, hypotensive on dopamine and balloon pump.
   .
   # CORONARIES:  History of CAD s/p stent to LCX in [**2132**], and [**2134**]. Now
   s/p anterior STEMI with cypher DES to prox LAD. Cardiac enzymes
   decreasing.
   -finished integrillin [**2-4**]
   -continue aspirin, plavix
   -start BB once BP stable
   -start ACE-I once BP stable
   -atorvastatin 80mg
   -insulin drip to keep glucose under 180
   -s/p arctic sun protocol, finished [**2-5**]
   .
   # PUMP:  Cardiogenic shock, LVEF 30% on dopamine and balloon pump in
   setting of anterior STEMI. Mixed venous O2  saturations initially 63%,
   improved with increased dopamine to 76%. BP stable today, will attempt
   to remove IABP and wean off dopamine.
   -DC heparin once IABP removed
   -wean dopamine goal MAP > 60
   -lidocaine added [**2-4**] in setting of PVC
s while on IABP.  Will
   discontinue Lidocaine gtt once IABP removed.
   .
   # RHYTHM: STEMI complicated by ventricular fibrillation, s/p
   defibrillation, amiodarone, and lidocaine drip. received cypher stent
   to prox LAD.  Lidocaine gtt restarted [**2-4**] to reduce PVC
s and improve
   synchrony between IABP and HR.
   -discontinue Lidocaine gtt once IABP removed.
   .
   # Respiratory status:Intubated at OSH during Vfib arrest. Currently on
   ARDS net protocol. Oxygenation improving, will wean down FiO2 and PEEP.
   - wean FiO2, PEEP.
   .
   # Acidosis-pH at presentation to [**Hospital1 19**] was 7.01, due to hypercarbia,
   gap metabolic acidoses likely from lactate acidosis from cardiogenic
   shock, and non-anion gap acidosis from renal failure, RTA.
   -check urine lytes, urine anion gap
   FEN:
   ACCESS: PIV's , right groin line.
   PROPHYLAXIS:
   -DVT sub q heparin, pantoprazole
   -Bowel regimen  colace, senna
   CODE:  full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2143-2-4**] 06:00 AM
   18 Gauge - [**2143-2-4**] 06:00 AM
   Arterial Line - [**2143-2-4**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2143-02-07 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Groin line removed.
   Extubated
   started on carvedilol, lisinopril, SBP ranged 150-160 most of the day
   vomited and carvedilol was transitioned to metoprolol 10mg IV HR
   decreased to 80's, BP 140's.
   aspirin decreased to 81mg
   Given lasix 20mg IV at 8pm, neg 1.8L since
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-2-4**] 12:58 PM
   Levofloxacin - [**2143-2-4**] 05:00 PM
   Metronidazole - [**2143-2-6**] 10:13 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2143-2-7**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-2-7**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 74 (74 - 102) bpm
   BP: 130/70(88) {95/58(79) - 158/84(266)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    817 mL
                                                                     63 mL
   PO:
             TF:
   IVF:
                                                                    817 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  2,490 mL
                                                                    590 mL
   Urine:
                                                                  2,290 mL
                                                                    590 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,673 mL
                                                                   -527 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 513 (513 - 513) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.44/35/99.[**Numeric Identifier 126**]/25/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 198
   Physical Examination
   GENERAL: WDWN retrograde amnesia, does not remember [**Holiday 4446**], or any
   events surrounding his admission.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. crackles b/l.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+  DP 1+ PT 1+
   Left: Carotid 2+ Femoral 2+   DP 1+ PT 1+
   Labs / Radiology
   121 K/uL
   12.2 g/dL
   95 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.9 mEq/L
   27 mg/dL
   107 mEq/L
   138 mEq/L
   33.2 %
   9.6 K/uL
        [image002.jpg]
                            [**2143-2-5**]  10:48 PM
                            [**2143-2-5**]  10:50 PM
                            [**2143-2-5**]  11:02 PM
                            [**2143-2-6**]  04:05 AM
                            [**2143-2-6**]  04:24 AM
                            [**2143-2-6**]  04:29 AM
                            [**2143-2-6**]  02:54 PM
                            [**2143-2-6**]  04:17 PM
                             [**2143-2-7**]  04:41 AM
                             [**2143-2-7**]  05:07 AM
   WBC
   11.0
   9.6
   Hct
   40
   32.9
   37
   33.2
   Plt
   111
   121
   Cr
   1.4
   1.3
   1.2
   TCO2
   19
   23
   24
   25
   25
   Glucose
   112
   115
   104
   100
   107
   95
   Other labs: PT / PTT / INR:15.6/58.0/1.4, CK / CKMB /
   Troponin-T:2742/375/3.36, Differential-Neuts:87.7 %, Lymph:7.1 %,
   Mono:4.9 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   64M w/ pmh CAD p/w chest pain, found to have anterior STEMI,
   complicated by V-fib arrest s/p defibrillation, now s/p cypher stent to
   prox LAD, off dopamine and balloon pump removed.
   .
   # CORONARIES:  History of CAD s/p stent to LCX in [**2132**], and [**2134**]. Now
   s/p anterior STEMI with cypher DES to prox LAD. Cardiac enzymes
   decreasing. Started on heparin IV and warfarin for apical hypokinesis.
   Will switch heparin to lovenox.
   -continue aspirin, plavix, decrease aspirin to 81mg
   -switching carvedilol to metoprolol.
   -continue lisinopril
   - continue atorvastatin 80mg
   -lovenox 80 [**Hospital1 7**]
   -warfarin daily, INR [**3-12**]. will continue for 3- 6 months.
   -s/p arctic sun protocol, finished [**2-5**]
   .
   # PUMP:  Cardiogenic shock, LVEF 30% on dopamine and balloon pump in
   setting of anterior STEMI. Mixed venous O2  saturations initially 63%,
   improved with increased dopamine to 76%. IABP removed [**2-5**], dopamine
   weaned off [**2-5**].
   -Consider Repeat echo during this admission
   -Will need cardiac MRI in 1 month for risk stratification.
   .
   # RHYTHM: STEMI complicated by ventricular fibrillation, s/p
   defibrillation, amiodarone, and lidocaine drip. received cypher stent
   to prox LAD.  Lidocaine gtt restarted [**2-4**] to reduce PVC
s and improve
   synchrony between IABP and HR.  Lidocaine discontinued [**2-5**] after
   removal of IABP.  Currently in sinus rhythm with occasional episodes of
   NSVT.
   -replete K
   .
   # Respiratory status: Extubated [**2-6**].  Exam with bilateral rales,
   producing sputum. Sputum Cx w/ gram pos cocci, and >25 pmns. Will
   continue levofloxacin and flagyl for aspiration pneumonia. Will add
   nebulizers.
   -albuterol
   -ipratropium
   -levoflox continue until [**2-9**], completing 7 day course.
   -flagyl until [**2-9**], completeing 7 day course.
   FEN:
   ACCESS: PIV's , right groin line.
   PROPHYLAXIS:
   -DVT sub q heparin, pantoprazole
   -Bowel regimen  colace, senna
   CODE:  full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-2-4**] 06:00 AM
   Arterial Line - [**2143-2-4**] 08:00 AM
   22 Gauge - [**2143-2-6**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2143-02-08 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Changed Carvedilol to Lopressor, uptitrated dose
   Uptitrated dose of Lisinopril, given captopril overnight for
   hypertension
   Memory improving
   I/O -900cc yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2143-2-7**] 02:00 PM
   Levofloxacin - [**2143-2-7**] 04:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2143-2-8**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-2-8**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 94 (76 - 94) bpm
   BP: 122/62(82) {122/62(82) - 172/88(107)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
                  Total In:
                                                                  1,178 mL
                                                                    100 mL
   PO:
                                                                  1,080 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     98 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    460 mL
   Urine:
                                                                  1,775 mL
                                                                    460 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -897 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   GENERAL: WDWN retrograde amnesia, does not remember [**Holiday 4446**], or any
   events surrounding his admission. Does remember events and people from
   yesterday.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Bibasilar crackles b/l.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+  DP 1+ PT 1+
   Left: Carotid 2+ Femoral 2+   DP 1+ PT 1+
   Labs / Radiology
   146 K/uL
   12.1 g/dL
   113 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   26 mg/dL
   108 mEq/L
   141 mEq/L
   32.4 %
   8.0 K/uL
        [image002.jpg]
                            [**2143-2-5**]  10:50 PM
                            [**2143-2-5**]  11:02 PM
                            [**2143-2-6**]  04:05 AM
                            [**2143-2-6**]  04:24 AM
                            [**2143-2-6**]  04:29 AM
                            [**2143-2-6**]  02:54 PM
                            [**2143-2-6**]  04:17 PM
                             [**2143-2-7**]  04:41 AM
                             [**2143-2-7**]  05:07 AM
                             [**2143-2-8**]  05:01 AM
   WBC
   11.0
   9.6
   8.0
   Hct
   40
   32.9
   37
   33.2
   32.4
   Plt
   111
   121
   146
   Cr
   1.3
   1.2
   1.1
   TCO2
   19
   23
   24
   25
   25
   Glucose
   115
   104
   100
   107
   95
   113
   Other labs: PT / PTT / INR:15.6/58.0/1.4, CK / CKMB /
   Troponin-T:2742/375/3.36, Differential-Neuts:87.7 %, Lymph:7.1 %,
   Mono:4.9 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Ca++:8.3 mg/dL, Mg++:2.0
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 PNEUMONIA, ASPIRATION
 CARDIAC ARREST
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   64M w/ pmh CAD p/w chest pain, found to have anterior STEMI,
   complicated by V-fib arrest s/p defibrillation, now s/p cypher stent to
   prox LAD, off dopamine and balloon pump removed.
   .
   # CORONARIES:  History of CAD s/p stent to LCX in [**2132**], and [**2134**]. Now
   s/p anterior STEMI with cypher DES to prox LAD.  Started on heparin IV
   and warfarin for apical hypokinesis.  Will switch heparin to lovenox.
   -add-on CK to AM labs to ensure decreasing
   -continue aspirin, plavix, ASA 81mg
   -continue metoprolol
   -continue lisinopril
   - continue atorvastatin 80mg
   -lovenox 80 [**Hospital1 7**]
   -warfarin daily, INR [**3-12**]. will continue for 3- 6 months.
   -s/p arctic sun protocol, finished [**2-5**]
   .
   # PUMP:  Cardiogenic shock, LVEF 30% on dopamine and balloon pump in
   setting of anterior STEMI. Mixed venous O2  saturations initially 63%,
   improved with increased dopamine to 76%. IABP removed [**2-5**], dopamine
   weaned off [**2-5**].
   -Consider Repeat echo during this admission
   -titrate metoprolol to HR <70
   -titrate ACEI to BP ~120/80
   -f/u echo in 1 month
   -Will also need cardiac MRI as outpt for risk stratification given
   question of coumadin duration
   .
   # RHYTHM: STEMI complicated by ventricular fibrillation, s/p
   defibrillation, amiodarone, and lidocaine drip. received cypher stent
   to prox LAD.  Lidocaine gtt restarted [**2-4**] to reduce PVC
s and improve
   synchrony between IABP and HR.  Lidocaine discontinued [**2-5**] after
   removal of IABP.  Currently in sinus rhythm with occasional episodes of
   NSVT.
   -replete K
   .
   # Respiratory status: Extubated [**2-6**].  Exam with bilateral rales,
   producing sputum. Sputum Cx w/ gram pos cocci, and >25 pmns. Will
   continue levofloxacin and flagyl for aspiration pneumonia. Will add
   nebulizers.
   -albuterol
   -ipratropium
   -levoflox continue until [**2-10**], completing 7 day course.
   -flagyl until [**2-10**], completeing 7 day course.
   .
   # Nausea:  likely [**3-11**] antibiotics.
   -start zofran
   FEN:
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT sub q heparin, pantoprazole
   -Bowel regimen  colace, senna
   CODE:  full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2143-2-4**] 08:00 AM
   22 Gauge - [**2143-2-6**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: